US07777047B2
ethyl 7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxylate
A mixture of ethyl 5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate (937 mg), (bromomethyl)cyclopropane (0.22 mL), potassium carbonate (401 mg) and N,N-dimethylformamide (20 mL) was stirred at 50° C. for 15 hr. The reaction mixture was diluted with ethyl acetate and saturated brine. The organic layer was washed with aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtered, and the filtrate was concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography to give the title compound (673 mg, yield 64%) as a pale-yellow amorphous solid from a fraction eluted with ethyl acetate.

reactant | ethyl 5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 937 mg | COCCOC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C1=NC=CC=C1)C(=O)OCC | C19H21N3O6S
reactant | (bromomethyl)cyclopropane | 0.22 mL | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 401 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | ethyl 7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxylate | 673 mg, yield 64% | C1(CC1)CN(C=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCOC)S(=O)(=O)C1=NC=CC=C1 | C23H27N3O6S
